US06969716B2
4,2′-Difluoro-5′-[3-(2-fluorophenyl)-[1,2,4]triazin-5-yl]biphenyl-2-carbonitrile
4,2′-Difluoro-5′-(3-methylsulfanyl-[1,2,4]triazin-5-yl)biphenyl-2-carbonitrile (0.115 g, 0.338 mmol) was coupled to 2-fluorobenzeneboronic acid (0.104 g, 0.743 mmol) by the method of Example 2 to give the title product as a pale yellow solid (63 mg): 8H (400 MHz, CDCl3) 7.27 (1H, q, J 1.3 Hz), 7.32-7.37 (1H, m), 7.43-7.48 (2H, m), 7.53-7.60 (3H, m), 8.24-8.29 (1H, m), 8.35-8.39 (2H, m), 9.67 (1H, s); m/z(ES+) 389 (M++H).

reactant | 4,2′-Difluoro-5′-(3-methylsulfanyl-[1,2,4]triazin-5-yl)biphenyl-2-carbonitrile | 0.338 mmol, 0.115 g | FC=1C=C(C(=CC1)C1=C(C=CC(=C1)C=1N=C(N=NC1)SC)F)C#N | C17H10F2N4S
reactant | 2-fluorobenzeneboronic acid | 0.743 mmol, 0.104 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
product | 4,2′-Difluoro-5′-[3-(2-fluorophenyl)-[1,2,4]triazin-5-yl]biphenyl-2-carbonitrile | 63 mg | FC=1C=C(C(=CC1)C1=C(C=CC(=C1)C=1N=C(N=NC1)C1=C(C=CC=C1)F)F)C#N | C22H11F3N4
